US06288278B1
902 mg (5.60 mmole) of 2-chlorobenzyl chloride and 1.0 g (3.73 mmole) 2-[(2-chlorophenyl)dimethylaminomethyl]-cyclohexanol were dissolved in 6.0 ml dimethylsulfoxide, analytical grade, 503 mg (4.48 mmole) solid potassium tert-butylate were added, under nitrogen, and the mixture was heated at 100° C. for 15 hours. For working up, 10 ml water were added, and the mixture was extracted three times with 15 ml ether each time. The combined extracts were washed with 10 ml each of potassium hydroxide solution (2 M) and water and extracted three times with 25 ml hydrochloric acid (5 wt. %) each time. The combined acid extracts were rendered alkaline (pH≧11) with sodium hydroxide solution (32 wt. %) and extracted three times with 25 ml methylene chloride each time. The combined organic extracts were dried over sodium sulfate, filtered and concentrated on a rotary evaporator (500 to 10 mbar). 277 mg crude base were obtained. 151 mg {[2-(2-chlorobenzyloxy)cyclohexyl]-(2-chlorophenyl)methyl}-dimethylamine hydrochloride (9.4% of theoretical) with a melting range of 108-100° C. were obtained from this crude base in accordance with Example 1 (4th stage) using chlorotrimethylsilane/water in 2-butanone.

reactant | 2-chlorobenzyl chloride | 5.60 mmole, 902 mg | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | 2-[(2-chlorophenyl)dimethylaminomethyl]-cyclohexanol | 3.73 mmole, 1.0 g | ClC1=C(C=CC=C1)C(C1C(CCCC1)O)N(C)C | C15H22ClNO
reactant | potassium tert-butylate | CC(C)(C)[O-].[K+]
reactant | water | 10 ml | O | H2O
solvent | dimethylsulfoxide | 6.0 ml | CS(=O)C | C2H6OS
product | {[2-(2-chlorobenzyloxy)cyclohexyl]-(2-chlorophenyl)methyl}-dimethylamine hydrochloride | 151 mg, 9.4% | Cl.ClC1=C(COC2C(CCCC2)C(C2=C(C=CC=C2)Cl)N(C)C)C=CC=C1 | InChI=1S/C22H27Cl2NO.ClH/c1-25(2)22(17-10-4-7-13-20(17)24)18-11-5-8-14-21(18)26-15-16-9-3-6-12-19(16)23;/h3-4,6-7,9-10,12-13,18,21-22H,5,8,11,14-15H2,1-2H3;1H
